US07452911B2
3.70.b 2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-5-phenyl-pyridine
Under an argon atmosphere 30 mg (0.25 mmol) phenylboric acid are added to a solution of 100 mg (0.25 mmol) 5-bromo-2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-pyridine, 0.25 mL (0.50 mmol) of a 2 M Na2CO3 solution and 4 mg (0.01 mmol) Pd(dppf)Cl2 in 5 mL 1,4-dioxane and 2 mL MeOH. The reaction mixture is stirred for 3 days at 90° C. The reaction mixture is diluted with EtOAc and the organic phase is washed with 40 mL water and finally with saturated NaCl solution. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. The purification is carried out using HPLC-MS and by column chromatography on silica gel (gradient: DCM/MeOH/NH3 95:5:0.5 to DCM/MeOH/NH3 9:1:0.1).

reactant | phenylboric acid | 0.25 mmol, 30 mg | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | 5-bromo-2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-pyridine | 0.25 mmol, 100 mg | BrC=1C=CC(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C21H23BrN2O
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-5-phenyl-pyridine | CC1CCN(CC1)CCOC1=CC=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=CC=C1 | C27H28N2O
